US07994185B2
N-{3-[5-(2-amino-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-pyrazole-4-sulfonamide hydrochloride
Following a procedure analogous to the procedure described in Example 282 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-pyrazole-4-sulfonamide (720 mg, 1.34 mmol) and ammonium hydroxide (15 ml), the title compound was obtained as a white solid (122 mg, 16%). 1HNMR (MEOD-d4): δ ppm 7.95-7.97 (d, J=8.0 Hz, 2H), 7.52-7.56 (m, 2H), 7.29-7.32 (t, J=6.0 Hz, 1H), 7.21-7.25 (t, J=8.0 Hz, 1H), 6.32-6.33 (d, J=6.4 Hz, 1H), 3.92-3.96 (dd, J1=11.8 Hz, J2=3.2 Hz, 2H), 3.77 (s, 3H), 3.45-3.51 (dd, J1=11.4 Hz, J2=1.2 Hz, 2H), 3.23-3.31 (m, 1H), 1.97-1.99 (d, J=11.2 Hz, 2H), 1.75-1.85 (dd, J1=12.2 Hz, J2=4.0 Hz, 2H); MS: 516 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-pyrazole-4-sulfonamide | 1.34 mmol, 720 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C=1C=NN(C1)C)F | C22H20ClFN6O3S2
reactant | ammonium hydroxide | 15 ml | [OH-].[NH4+]
product | N-{3-[5-(2-amino-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-pyrazole-4-sulfonamide hydrochloride | Cl.NC1=NC=CC(=N1)C1=C(N=C(S1)C1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C=1C=NN(C1)C)F | InChI=1S/C22H22FN7O3S2.ClH/c1-30-12-14(11-26-30)35(31,32)29-16-4-2-3-15(18(16)23)19-20(17-5-8-25-22(24)27-17)34-21(28-19)13-6-9-33-10-7-13;/h2-5,8,11-13,29H,6-7,9-10H2,1H3,(H2,24,25,27);1H
